US04920131
A mixture of o-cresol (0.1 mol) and diethyl 2-bromoglutarate (0.1 mol) and K2CO3 (0.11 mol) in 50 mL of DMF are heated at 70° C. overnight. The reaction is poured into water and extracted with ethyl acetate. The organic solution is washed with water, 0.1N NaOH solution, dried and evaporated to give ethyl 4-carbethoxy-4-(2-methylphenoxy)butyrate which is used directly in the next step.

reactant | o-cresol | 0.1 mol | C1(=CC=CC=C1O)C | C7H8O
reactant | diethyl 2-bromoglutarate | 0.1 mol | BrC(C(=O)OCC)CCC(=O)OCC | C9H15BrO4
reactant | K2CO3 | 0.11 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 4-carbethoxy-4-(2-methylphenoxy)butyrate | C(=O)(OCC)C(CCC(=O)OCC)OC1=C(C=CC=C1)C | C16H22O5
